US06693123B2
4-Choro-3-vinylpyridine
Methyltriphenylphosphonium bromide (4.45 g, 12.5 mmol) was suspended in THF (25 mL) under dry nitrogen and treated with butyllithium (2.5 M in hexanes, 5 mL). After stirring the suspension for 30 minutes, 4-chloropyridine-3-carboxaldehyde (1.47 g, 10.4 mmol) was added. After 2 hours at ambient temperature, the reaction was diluted with hexanes, filtered, and evaporated. The material thus obtained was used directly without further purification or characterization.

reactant | butyllithium | 2.5 M, 5 mL | C(CCC)[Li]
reactant | 4-chloropyridine-3-carboxaldehyde | 10.4 mmol, 1.47 g | ClC1=C(C=NC=C1)C=O | C6H4ClNO
catalyst | Methyltriphenylphosphonium bromide | 12.5 mmol, 4.45 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Choro-3-vinylpyridine | ClC1=C(C=NC=C1)C=C | C7H6ClN
